US20010044538A1
A solution of ethyl 3-(tributylsilyloxy)picolinate (19 g, 35 mmol) in tetrahydrofuran (100 ml) was cooled to 0° C. and 4-fluorophenylmagnesium chloride (52 ml, 1.0 M in tetrahydrofuran) was added dropwise. After 30 min., the reaction mixture was quenched with water and the product was extracted with ethyl acetate. The organic layer was dried over sodium sulfate and concentrated in vacuo. Purification on a silica gel column using ethyl acetate-hexane (2:98) as the eluant gave 2-(4-fluorobenzoyl)-3-(tributylsilyloxy)pyridine (3.75 g).

reactant | ethyl 3-(tributylsilyloxy)picolinate | 35 mmol, 19 g | C(CCC)[Si](OC=1C(=NC=CC1)C(=O)OCC)(CCCC)CCCC | C20H35NO3Si
reactant | 4-fluorophenylmagnesium chloride | 1.0 M, 52 ml | FC1=CC=C(C=C1)[Mg]Cl
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(4-fluorobenzoyl)-3-(tributylsilyloxy)pyridine | 3.75 g | FC1=CC=C(C(=O)C2=NC=CC=C2O[Si](CCCC)(CCCC)CCCC)C=C1 | C24H34FNO2Si
